US06960614B2
To a solution of 2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-benzoic acid pentafluorophenyl ester (10.0 g, 17.4 mmol) in anhydrous dimethylformamide (36 mL) was added 2-(aminooxy)-ethanol (1.6 g, 20.8 mmol) and N,N-diisopropylethylamine (6.0 mL, 34.8 mmol). The resultant solution was stirred at ambient temperature for 16 h. The reaction mixture was concentrated to 20% volume then diluted with ethyl acetate (360 mL). The resultant solution was washed with water (6×60 mL) and brine (2×60 mL). The organics were dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a white solid that was purified on silica gel. Elution with ethyl acetate-methanol (9:1) afforded 2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide (7.31 g, 90%) as a white solid. Recrystallization from methanol afforded analytically pure material, identical in all respects to the material prepared by method A.

reactant | 2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-benzoic acid pentafluorophenyl ester | 17.4 mmol, 10.0 g | FC1=C(C(=C(C(=C1OC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)Cl)=O)F)F)F)F | C19H6ClF7INO2
reactant | 2-(aminooxy)-ethanol | 20.8 mmol, 1.6 g | NOCCO | C2H7NO2
reactant | N,N-diisopropylethylamine | 34.8 mmol, 6.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
product | 2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide | 7.31 g, 90% | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)NOCCO)C=CC(=C1F)F | C15H12ClF2IN2O3
